US07541372B2
2-(2-Methoxy-4-nitro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (2.00 g, 9.12 mmol) was converted using 2-methoxy-4-nitro-benzoic acid instead of o-toluic acid to the title compound (2.92 g, 84%) which was obtained as a white solid. MS: m/e=379.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 9.12 mmol, 2.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-methoxy-4-nitro-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO5
product | 2-(2-Methoxy-4-nitro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 2.92 g, 84% | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C19H14N4O5
